data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_700267_1,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])(/[C:4]([O:6][H:8])=[N:7]\[H:13])([N:5]([H:11])[H:12])[H:10]>>[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])([O:6][H:8])[N:7]1[H:13],58.29537749998963
MR_50087_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[C:5]([C:4]([H:16])([H:17])[H:18])([O:6][C:2]([H:10])([H:11])[H:12])[O:8]1>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])([O:6][C:2]([H:10])([H:11])[H:12])[O:8][H:9])=[O:7],26.9561449999992
MR_350765_1,[C:1](/[N:8]=[C:5](/[N:3]([N:2]([C:4]([O:7][H:10])=[O:9])[H:11])[H:12])[N:6]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([N:8]([C:4]([O:7][H:10])=[O:9])[C:5]1([N:6]([H:13])[H:14])[N:2]([H:11])[N:3]1[H:12])([H:15])([H:16])[H:17],65.52919750002431
MR_39783_1,[C:1](/[N:6]=[C:3](/[N:2]([C:5](=[O:7])[H:11])[H:8])[N:4]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:6](/[C:3](=[N:2]\[H:8])[N:4]([H:9])[H:10])[C:5](=[O:7])[H:11])([H:12])([H:13])[H:14],40.44927749999644
MR_492639_0,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([O:6][O:5][N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1]([O:5][N:4]([H:8])[H:9])([O:6][C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([H:10])[H:11],34.13223500000129
MR_290484_0,[C:1]([C:2]([N:3]([H:7])[H:8])=[C:4]([H:11])[H:12])([O:5][H:6])([H:9])[H:10]>>[C:1](=[C:2]([N:3]([H:7])[H:8])[C:4]([O:5][H:6])([H:11])[H:12])([H:9])[H:10],70.41052000000604
MR_454009_1,[C:1]1([C:2]([N:8][N:7][O:6][H:9])([H:12])[H:13])([N:5]([H:10])[H:11])[C:3]([H:14])([H:15])[C:4]1([H:16])[H:17]>>[C@@:1]12([N:5]([H:10])[H:11])[C:2]([H:12])([H:13])[N:8]1[N:7]([O:6][H:9])[C:4]([H:16])([H:17])[C:3]2([H:14])[H:15],68.03292250001647
MR_663752_1,[C:1]([N:4]([H:11])[H:12])(/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:14])[H:13])([O:7][N:3]([H:9])[H:10])[H:8]>>[C:1](\[N:4]([H:11])[H:12])(=[C:5](/[C:6]([C:2]([H:15])([H:16])[H:17])([O:7][N:3]([H:9])[H:10])[H:14])[H:13])[H:8],37.09340750001559
MR_435741_1,[C:1]([C:4]([H:19])([H:20])[H:21])([N:6]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])(/[N:9]=[C:7](/[C:5]([H:22])([H:23])[H:24])[N:8]([H:11])[H:12])[H:10]>>[C:1](\[C:4]([H:19])([H:20])[H:21])(=[N:9]/[C:7]([C:5]([H:22])([H:23])[H:24])([N:6]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])[N:8]([H:11])[H:12])[H:10],60.104460000023465
MR_156554_0,[C:1](/[C:3]([N:2]([O:4][H:7])[H:9])=[N:6]\[O:5][H:8])([H:10])([H:11])[H:12]>>[C:1](/[C:3](=[N:2]\[O:4][H:7])[N:6]([O:5][H:8])[H:9])([H:10])([H:11])[H:12],43.94194249998861
MR_563978_2,[N:1]([N:2]([N:5]([H:12])[H:13])[H:9])([C:3]([O:6][H:8])=[O:7])[N:4]([H:10])[H:11]>>[N:1]([N:2]([C:3]([O:6][H:8])=[O:7])[H:9])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13],56.254120000006935
MR_173342_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])/[C:5](=[N:7]/[O:6][H:8])[H:9])([H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:7]([C:5]([N:4][C:2]([H:12])([H:13])[H:14])[H:9])[O:6][H:8])([H:10])[H:11],69.48307500002912
MR_614641_1,[C:1](/[C:2](=[N:6]\[H:9])[H:10])([O:3][O:4][H:7])=[N:5]/[H:8]>>[C:1](\[O:3]/[C:2](=[N:6]\[H:9])[H:10])([O:4][H:7])=[N:5]\[H:8],54.03653500000573
MR_689256_1,[C:1]([C:4]([N:6]([H:14])[H:15])([O:9][H:17])[H:11])([N:5]([H:12])[H:13])([O:8]/[C:2]([C:3]([H:18])([H:19])[H:20])=[N:7]/[H:16])[H:10]>>[C:1]([C:4]([N:6]([H:14])[H:15])=[O:9])([N:5]([H:12])[H:13])([O:8][C:2]([C:3]([H:18])([H:19])[H:20])([N:7]([H:16])[H:17])[H:11])[H:10],41.36668249999872
MR_621717_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:4]([C:3]([H:13])([H:14])[H:15])=[O:8])([O:5][H:9])[N:6]=[O:7]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([N:6]=[O:7])=[O:8])[O:5][H:9],51.11614999999546
MR_300028_0,[C:1]([C:3]([H:15])([H:16])[H:17])(/[C:4]([C:2]([O:6][H:8])([H:13])[H:14])=[N:7]/[H:12])([N:5]([H:10])[H:11])[H:9]>>[C:1](\[C:3]([H:15])([H:16])[H:17])([C:4]([C:2]([O:6][H:8])([H:13])[H:14])([N:7]([H:11])[H:12])[H:9])=[N:5]\[H:10],46.8629549999973
MR_238541_1,[C:1]1([C:3]([C:2](=[C:5]([H:16])[H:17])[H:9])([H:11])[H:12])([H:8])[C:4]([H:13])([H:14])[C:6]1([N:7]([H:10])[H:18])[H:15]>>[C:1]1([C:4](/[C:6](=[N:7]/[H:10])[H:15])([H:13])[H:14])([H:8])[C:2]([C:5]([H:16])([H:17])[H:18])([H:9])[C:3]1([H:11])[H:12],66.26148999999458
MR_671704_1,[C:1]1([H:13])([H:14])[N:3]([N:5]([H:10])[H:11])[C:4]1([C:7]([C:6](=[O:9])[H:12])([H:18])[H:19])[O:8][C:2]([H:15])([H:16])[H:17]>>[C:1]([N:3]([N:5]([H:10])[H:11])[C:6](=[O:9])[H:12])([C:4](=[C:7]([H:18])[H:19])[O:8][C:2]([H:15])([H:16])[H:17])([H:13])[H:14],35.31068000002222
MR_114402_0,[C:1]([C:2](/[C:4](=[C:5](\[N:3]([H:7])[H:8])[H:10])[H:9])=[C:6]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:2]1=[C:4]([H:9])[C:5]([N:3]([H:7])[H:8])([H:10])[C:6]1([H:14])[H:15])([H:11])([H:12])[H:13],57.187839999985854
MR_489733_0,[C:1](/[C:7](=[C:3]([C:2](\[N:4]([H:10])[H:11])=[C:6](/[O:8][H:9])[H:14])/[N:5]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:7]1([H:15])[C:3]([N:5]([H:12])[H:13])=[C:2]([N:4]([H:10])[H:11])[C:6]1([O:8][H:9])[H:14])([H:16])([H:17])[H:18],42.37005499996229
